US05457207
A solution of 1,2,3,6-tetrahydropyridine in CH2Cl2 (10 mL) was added to a stirring solution of di-tert-butyldicarbonate in CH2Cl2 (40 mL). The resulting mixture was treated with Et3N (1 mL) and stirred overnight. After 30 h, the reaction mixture was concentrated to provide a clear colorless liquid which was redissolved in THF (100 mL). To this solution was added N-bromosuccinimide (4.45 g, 25.0 mmol) and water (25 mL). The resulting biphasic mixture was stirred at room temperature for 23 h, diluted with water (40 mL) and extracted with CH2Cl2 (2×50 mL). The combined organic extracts were dried over anhyd Na2SO4 and concentrated under reduced pressure to a syrup. The latter was triturated with hot hexane and cooled to cause precipitation of succinimide. The precipitate was removed by filtration and discarded. The filtrate was concentrated to provide a mixture of the isomeric bromohydrins as a yellow syrup (6.8 g, 98%). A fraction of this syrup (3.64 g, 13.0 mmol) was refluxed for 2 h in a biphasic mixture of CHCl3 (100 mL) and 2.5M aq. NaOH (100 mL). The mixture was allowed to cool to room temperature and the layers were separated. The aq. layer was re-extracted with CHCl3 (2×30 mL) and discarded. The combined organic extracts were dried over anhyd Na2SO4 and concentrated to yield N-tert-butoxycarbonyl-1,2,3,6-tetrahydropyridine oxide (2.72 g) as an orange liquid. A mixture of the crude epoxide (2.72 g) and 8 (2.22 g, 10.0 mmol) in EtOH (60 mL) and Et3N (15 mL) was refluxed for 24 h, cooled and concentrated to a residue. The latter was partitioned between CH2Cl2 (50 mL) and water (40 mL). Following separation of the layers, the aq. phase was re-extracted with CH2Cl2 (50 mL). The organic extracts were combined, dried over anhyd. Na2SO4, conc to a minimum volume and passed through a short column of silica gel (eluting with 20% acetone(20):hexane(79):Et3N(1)). Concentration of the eluent provided a red syrup which was subjected to preparative HPLC (5:94:1 i-PrOH/hexane/Et3N; flow rate, 80 mL/min). Concentration of the more mobile fraction yielded 19a (0.61 g, 16%) as a syrup. () 1H NMR (CDCl3)δ1.45 (broad s, 9, (CH3)-C), 1.70-1.90(m, 2, piperidyl), 2.01 (td, 1, piperidyl), 2.11-2.28 (m, 2, piperidyl), 2.38-2.70 (m, 2, piperidyl), 2.76-300(m, 3, piperidyl), 3.47 (m, 1, piperidyl), 3.67 (m, 1, piperidyl), 3.91-3.40 (m, 2, piperidyl), 4.15 (m, 1, N--CH--CHOH), 4.28 (broad s, 1, HC--OH), 4.45 (broad S, 1,--OH 6.74 (d, 1, J=6 Hz, ph-CH=CH), 6.80 (d, 1, J=6 Hz, ph-CH=CH--), 7.20-7.39(m, 4, phenyl). The less mobile fraction, 20a (1.90 g, 49%) was obtained as the major component. 1H NMR (CDCl3) δ1.52 (m, 11, (CH3)3 --C, piperidyl), 1.99-2.35 (m, 4, piperidyl), 2.40 (td, 1, piperidyl), 2.61 (td, 1, piperidyl), 2.72-2.82 (m, 3, piperidyl), 2.92 (m, 1, piperidyl), 3.07 (m, 2, piperidyl), 3.63 (m, 1, N-CH--CHOH), 4.13 (broad s, 1, HC--OH), 4.38 (broad s, 1, -OH), 6.74-6.80 (complex dd, 2H, indyl), 7.18-7.41(m, 4, phenyl). Anal. (C23H32N2O3)C,H,N.

reactant | 1,2,3,6-tetrahydropyridine | N1CCC=CC1 | C5H9N
reactant | di-tert-butyldicarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | N-bromosuccinimide | 25.0 mmol, 4.45 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | NaOH | 2.5M, 100 mL | [OH-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 40 mL | O | H2O
solvent | water | 25 mL | O | H2O
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | Et3N | 1 mL | CCN(CC)CC | C6H15N
product | N-tert-butoxycarbonyl-1,2,3,6-tetrahydropyridine oxide | 2.72 g | C(C)(C)(C)OC(=O)[N+]1(CCC=CC1)[O-] | C10H17NO3
